US05190926
5'-Trityl-2'-deoxyuridine (2)
A mixture of 2'-deoxyuridine (11.4 g, 0.05 mole) and trityl chloride (13.95 g, 0.05 mole) in dry pyridine 55 ml) was heated at 100° C. for 40 min. After cooling, the mixture was poured into an ice-water mixture (1 l), the precipitate filtered, washed with water, dissolved in chloroform, dried (MgSO4), and then evaporated to a syrup (20.5 g, 85%).

reactant | 2'-deoxyuridine | 0.05 mole, 11.4 g | [C@@H]1(C[C@H](O)[C@@H](CO)O1)N1C(=O)NC(=O)C=C1 | C9H12N2O5
reactant | trityl chloride | 0.05 mole, 13.95 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
solvent | pyridine | 55 ml | N1=CC=CC=C1 | C5H5N
product | 5'-Trityl-2'-deoxyuridine | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)C([C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=O)C=C1)O)O | C28H26N2O5
